US06417186B1
6d. 2,2,2-Trifluoro-N-(4-{3-[4-(4-methanesulfonylpiperazin-1-yl)-phenyl]-3-oxopropyl}phenyl)acetamide
A solution of 2,2,2-trifluoro-N-{4-[3-oxo-3-(4-piperazin-1-ylphenyl)propyl]-phenyl}acetamide (0.45 g, 1.1 mmol) was treated with methanesulfonyl chloride (0.15 g, 1.32 mmol) and triethylamine (0.28 g, 2.75 mmol) in N,N-dimethyl-formamide (5 mL). The reaction mixture was stirred for 15 minutes at 0° C., diluted with ice water, and extracted with ethyl acetate. The organic extract was washed with water and brine, dried, and concentrated in vacuo to give the title compound as a white solid (0.45 g, 85%).

reactant | 2,2,2-trifluoro-N-{4-[3-oxo-3-(4-piperazin-1-ylphenyl)propyl]-phenyl}acetamide | 1.1 mmol, 0.45 g | FC(C(=O)NC1=CC=C(C=C1)CCC(C1=CC=C(C=C1)N1CCNCC1)=O)(F)F | C21H22F3N3O2
reactant | methanesulfonyl chloride | 1.32 mmol, 0.15 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.75 mmol, 0.28 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethyl-formamide | 5 mL | CN(C=O)C | C3H7NO
product | 2,2,2-Trifluoro-N-(4-{3-[4-(4-methanesulfonylpiperazin-1-yl)-phenyl]-3-oxopropyl}phenyl)acetamide | 0.45 g, 85% | FC(C(=O)NC1=CC=C(C=C1)CCC(=O)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C)(F)F | C22H24F3N3O4S
